### PR TITLE
feat: elementary lemmas aiding computations with `log⁺`

### PR DESCRIPTION
**Pull request by kebekus**
Add several elementary lemmas aiding computations with `log⁺`. Improve the docstrings a little.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 1]
```diff
@@ -91,9 +98,21 @@ theorem monotoneOn_posLog : MonotoneOn log⁺ (Set.Ici 0) := by
     simp only [this, and_true, ge_iff_le]
     linarith
 
+/-- The function `log⁺` commutes with taking powers. -/
+@[simp] lemma posLog_pow {n : ℕ} {a : ℝ} :
+    log⁺ (a ^ n) = n * log⁺ a := by
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: I think `x` might be more conventional for a real number --- though this file uses a mix of different conventions (sometimes `x`, sometimes `a` and `b`, sometimes `r`). In other words, consider my suggestion optional.
```suggestion
@[simp]
lemma posLog_pow {n : ℕ} {x : ℝ} : log⁺ (x ^ n) = n * log⁺ x := by
```

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 2]
```diff
@@ -91,9 +98,21 @@ theorem monotoneOn_posLog : MonotoneOn log⁺ (Set.Ici 0) := by
...
+  by_cases hn : n = 0
+  · simp_all
+  by_cases h₂a : |a| ≤ 1
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: There's no `ha` in scope, so this could be `ha`, right?

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 3]
```diff
@@ -91,9 +98,21 @@ theorem monotoneOn_posLog : MonotoneOn log⁺ (Set.Ici 0) := by
...
+  · simp_all [pow_le_one₀, (posLog_eq_zero_iff _).2]
+  rw [not_le] at h₂a
+  have : 1 < |a ^ n| := by simp [one_lt_pow₀ h₂a hn]
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Can you prove the \leq version here directly?

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 4]
```diff
@@ -158,8 +179,23 @@ theorem posLog_sum {α : Type*} (s : Finset α) (f : α → ℝ) :
...
+Variant of `posLog_sum` for norms of elements in normed additive commutative
+groups, using monotonicity of `log⁺` and the triangle inequality.
+-/
+lemma posLog_norm_sum_le {E : Type*} [NormedAddCommGroup E]
+    {α : Type*} (s : Finset α) (f : α → E) :
+    log⁺ ‖∑ t ∈ s, f t‖ ≤ log s.card + ∑ t ∈ s, log⁺ ‖f t‖ := by
+  calc log⁺ ‖∑ t ∈ s, f t‖
+  _ ≤ log⁺ (∑ t ∈ s, ‖f t‖) := by
+    apply monotoneOn_posLog (by simp) _ (norm_sum_le s f)
+    simp [Finset.sum_nonneg (fun i _ ↦ norm_nonneg (f i))]
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean:194]: Can `positivity` do this (untested)?

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 5]
```diff
@@ -158,8 +179,23 @@ theorem posLog_sum {α : Type*} (s : Finset α) (f : α → ℝ) :
...
+/--
+Variant of `posLog_sum` for norms of elements in normed additive commutative
+groups, using monotonicity of `log⁺` and the triangle inequality.
+-/
+lemma posLog_norm_sum_le {E : Type*} [NormedAddCommGroup E]
+    {α : Type*} (s : Finset α) (f : α → E) :
+    log⁺ ‖∑ t ∈ s, f t‖ ≤ log s.card + ∑ t ∈ s, log⁺ ‖f t‖ := by
+  calc log⁺ ‖∑ t ∈ s, f t‖
+  _ ≤ log⁺ (∑ t ∈ s, ‖f t‖) := by
+    apply monotoneOn_posLog (by simp) _ (norm_sum_le s f)
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean:193]: Can `gcongr` do this (or do you need to provide the side condition manually)?

**Review by grunweg — COMMENTED** [review]
Thanks for the PR. Looks good, I just have a couple of minor comments or potential golfing opportunities.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Implemented your suggestion. Also, use `x` consistently throughout the file now.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Correct. Implemented.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean:194]: I am unable to get `positivity` working here.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Done as suggested.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean:193]: I was unable to make that work.

**Comment by kebekus** [comment]
@grunweg Thanks for your extremely prompt response!

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 6]
```diff
@@ -16,6 +16,8 @@ estimates.
 
 - `theorem posLog_sum : log⁺ (∑ i, f i) ≤ log n + ∑ i, log⁺ (f i)`
 
+See `Mathlib.Analysis.SpecialFunctions.Integrals.PosLogEqCircleAverage` for the presentation of
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: The convention is to use filenames not import paths in docstrings:
```suggestion
See `Mathlib/Analysis/SpecialFunctions/Integrals/PosLogEqCircleAverage.lean` for the presentation of
```

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 7]
```diff
@@ -91,25 +98,34 @@ theorem monotoneOn_posLog : MonotoneOn log⁺ (Set.Ici 0) := by
...
+
 /-- Estimate for `log⁺` of a product. See `Real.posLog_prod` for a variant involving
 multiple factors. -/
-theorem posLog_mul {a b : ℝ} :
-    log⁺ (a * b) ≤ log⁺ a + log⁺ b := by
-  by_cases ha : a = 0
-  · simp [ha, posLog]
-  by_cases hb : b = 0
-  · simp [hb, posLog]
+theorem posLog_mul {x₁ x₂ : ℝ} : log⁺ (x₁ * x₂) ≤ log⁺ x₁ + log⁺ x₂ := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: I'd argue this variable rename just makes things harder to read.

Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Reverted variable names to `x` and `y` for readability. Thanks.

Comment (eric-wieser) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Could you revert all the variable name changes to theorems that this PR didn't add? If you want to do cleanup like that, it  would be best left to a future PR I think. I'll let @grunweg confirm.

Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Roger. To avoid confusion, I close this PR now and open a new one. See you there!
